US07713993B2
Synthesis of (E)-N-cyanomethyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
EDC (4.48 g), HOBT (3.14 g) and IPEA (6.76 mL) were sequentially added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (2 g) and aminoacetonitrile hydrochloride (1.08 g) in DMF (25 mL), and the reaction solution was stirred at room temperature for five hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with brine and then dried over anhydrous sodium sulfate and filtered through a silica gel pad (Chromatorex NH). The filtrate was concentrated under reduced pressure. The residue was crystallized (heptane-ethyl acetate-methanol system) to obtain 1.24 g of the title compound. The property values of the compound are as follows.

reactant | HOBT | 3.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 6.76 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 2 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | aminoacetonitrile hydrochloride | 1.08 g | Cl.NCC#N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 4.48 g
product | (E)-N-cyanomethyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 1.24 g | C(#N)CNC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C16H16N4O2
